US05389682
[S-(R*,R*) and [R-(R*,R*)]-N-[1,2-diphenyl-2-[[[[4-(trifluoromethyl)phenyl]amino]carbonyl]amino]-ethyl]benzeneacetamide
To a solution of [R-(R*,R*)] and [S-(R*,R*)]-N-(2-amino-1,2-diphenylethyl)-N'-[4-(trifluoromethyl)phenyl]urea (0.1 g, 0.25 mmol) in dichloromethane (5 mL) is added phenylacetyl chloride (0.05 g, 0.3 mmol) followed by triethylamine (0.03 g, 0.3 mmol) in one portion. The resulting mixture is stirred 2 hours at room temperature before concentrating in vacuo. The residue is dissolved in diethyl ether and the organic layer washed with aqueous 1N NaOH, aqueous saturated NaCl, and dried over MgSO4. Filtration and concentration gives an oil which is purified by flash chromatography (SiO2, EtOAc/hexane eluent). The resulting solid is recrystallized from ethyl acetate/hexane to give 0.07 g (52%) of desired white solid, mp 233.5°-234° C. NMR (DMSO-d6): 3.46 (dd, 2H, J=26.4, 14 Hz), 5.10 (m, 2H), 6.97-7.19 (m, 20H), 7.57 (s, 4H), 8.82 (d, 1H, J=8.3 Hz), 8.98 (s, 1H). Analysis calculated for C30H26F3N3O2.0.71H2O: C, 67.94; H, 5.21; N, 7.92. Found: C, 67.94; H, 4.84; N, 7.86.

reactant | N-(2-amino-1,2-diphenylethyl)-N'-[4-(trifluoromethyl)phenyl]urea | 0.25 mmol, 0.1 g | NC(C(C1=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C22H20F3N3O
reactant | phenylacetyl chloride | 0.3 mmol, 0.05 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | triethylamine | 0.3 mmol, 0.03 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-[1,2-diphenyl-2-[[[[4-(trifluoromethyl)phenyl]amino]carbonyl]amino]-ethyl]benzeneacetamide | 0.07 g, 52% | C1(=CC=CC=C1)C(C(NC(=O)NC1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1)NC(CC1=CC=CC=C1)=O | C30H26F3N3O2
